US05710138
c) (1-Amino-2-naphthylamino)-methanephosphonic acid diethyl ester
170 mg of (1-nitro-2-naphthylamino)-methanephosphonic acid diethyl ester is reduced in 2 ml of glacial acetic acid with 10 equivalents of iron powder. After two hours, the mixture becomes viscous and then solid. It is diluted with ethyl acetate, the iron is removed, and it is chromatographed with ethyl acetate. The product is obtained in 60% yield.

reactant | (1-nitro-2-naphthylamino)-methanephosphonic acid diethyl ester | 170 mg | C(C)OP(OCC)(=O)CNC1=C(C2=CC=CC=C2C=C1)[N+](=O)[O-] | C15H19N2O5P
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 10 equivalents | [Fe] | Fe
product | (1-Amino-2-naphthylamino)-methanephosphonic acid diethyl ester | 60% yield | C(C)OP(OCC)(=O)CNC1=C(C2=CC=CC=C2C=C1)N | C15H21N2O3P
